### PR TITLE
[Merged by Bors] - feat: port Order.Filter.Archimedean

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Filter/Archimedean.lean [hunk 1]
```diff
@@ -0,0 +1,254 @@
...
+  rw [← @Rat.comap_cast_atTop R, tendsto_comap_iff]; rfl
+#align tendsto_coe_rat_at_top_iff tendsto_rat_cast_atTop_iff
+
+theorem tendsto_rat_cast_atBot_iff [LinearOrderedField R] [Archimedean R] {f : α → ℚ}
+    {l : Filter α} : Tendsto (fun n => (f n : R)) l atBot ↔ Tendsto f l atBot := by
+  rw [← @Rat.comap_cast_atBot R, tendsto_comap_iff]; rfl
+#align tendsto_coe_rat_at_bot_iff tendsto_rat_cast_atBot_iff
+
+-- porting note: new lemma
+theorem atTop_antitone_basis_of_archimedean [StrictOrderedSemiring R] [Archimedean R] :
```
Comment (dupuisf) [inline Mathlib/Order/Filter/Archimedean.lean:98]:
```suggestion
theorem atTop_hasAntitoneBasis_of_archimedean [StrictOrderedSemiring R] [Archimedean R] :
```
Seems like this would be better, no? (Same for countable basis below.)

**Review by dupuisf — COMMENTED** [review]
Looks good!

bors d+

**Comment by rwbarton** [comment]
lgtm as well

**Comment by urkud** [comment]
bors merge
